US04007189
6,7-Dihydro-8-isobutyl-5-methyl-8H-pyrrolo[3,2-e]-s-triazolo[1,5-a]pyrimidine
A mixture of 2.3g of 7-chloro-6-(2-chloroethyl)-5-methyl-s-triazolo[1,5-a]pyrimidine, 1g of isobutylamine, 1.8g of sodium carbonate and 20 ml of ethanol was treated by the same manner as described in Example 3. The crystals thus obtained were recrystallized from aqueous methanol to give 1.4g of pale yellow prisms of m.p. 143° - 145° C.

reactant | 7-chloro-6-(2-chloroethyl)-5-methyl-s-triazolo[1,5-a]pyrimidine | 2.3g | ClC1=C(C(=NC=2N1N=CN2)C)CCCl | C8H8Cl2N4
reactant | isobutylamine | C(C(C)C)N | C4H11N
reactant | sodium carbonate | 1.8g | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 6,7-Dihydro-8-isobutyl-5-methyl-8H-pyrrolo[3,2-e]-s-triazolo[1,5-a]pyrimidine | 1.4g | C(C(C)C)N1CCC=2C(=NC=3N(C21)N=CN3)C | C12H17N5
